### ISSUE TITLE
`progress*`

### ISSUE THREAD

**Issue by sonmarcho** [AeneasVerif/aeneas#307]
Many proofs are quite mechanical, especially as they follow the structure of the function under scrutinee. For instance, the *structure* of all the proofs in the tutorial could be generated automatically (see [this one](https://github.com/AeneasVerif/aeneas/blob/b1ca1ff00c15a550eab385d58306697a4a68d674/tests/lean/Tutorial/Solutions.lean#L255) for instance).

It would be interesting to write a `progress*` tactic which would generate such a skeleton (by using the VS Code code actions, like `simp?`), leaving sorries for the proof obligations it could not solve. For instance, in the tutorial we have the following proof at some point:
```lean
theorem add_no_overflow_loop_spec
  (x : alloc.vec.Vec U32) (y : alloc.vec.Vec U32) (i : Usize)
  (hLength : x.length = y.length)
  -- No overflow occurs when we add the individual thunks
  (hNoOverflow : ∀ (j : Nat), i.toNat ≤ j → j < x.length → (x.val.index j).val + (y.val.index j).val ≤ U32.max)
  (hi : i.val ≤ x.length) :
  ∃ x', add_no_overflow_loop x y i = ok x' ∧
  x'.length = x.length ∧
  toInt x' = toInt x + 2 ^ (32 * i.toNat) * toInt_aux (y.val.drop i.toNat) := by
  rw [add_no_overflow_loop]
  simp
  split
  . progress as ⟨ yv ⟩
    progress as ⟨ xv ⟩
    progress as ⟨ sum ⟩
    . -- This precondition is not proven automatically
      have := hNoOverflow i.toNat (by scalar_tac) (by scalar_tac)
      scalar_tac
    progress as ⟨ i' ⟩
    progress as ⟨ x1 ⟩
    progress as ⟨ x2 ⟩
    . -- This precondition is not proven automatically
      intro j h0 h1
      simp_all
      -- Simplifying (x.update ...).index:
      have := List.index_update_neq x.val i.toNat j sum (by scalar_tac)
      simp [*]
      apply hNoOverflow j (by scalar_tac) (by scalar_tac)
    -- Postcondition
    /- Note that you don't have to manually call the lemmas `toInt_aux_update`
        and `toInt_aux_drop` below if you first do:
        ```
        have : i.toNat < x.length := by scalar_tac
        ```
        (simp_all will automatically apply the lemmas and prove the
        the precondition sby using the context)
      -/
    simp_all [toInt]
    scalar_eq_nf
    -- Simplifying: toInt_aux ((↑x).update (↑i).toNat sum)
    have := toInt_aux_update x.val i.toNat sum (by scalar_tac)
    simp [*]; scalar_eq_nf
    -- Simplifying: toInt_aux (List.drop (1 + (↑i).toNat) ↑y
    have := toInt_aux_drop y.val i.toNat (by scalar_tac)
    simp [*]; scalar_eq_nf
  . simp_all
```

If we write:
```lean
theorem add_no_overflow_loop_spec
  (x : alloc.vec.Vec U32) (y : alloc.vec.Vec U32) (i : Usize)
  (hLength : x.length = y.length)
  -- No overflow occurs when we add the individual thunks
  (hNoOverflow : ∀ (j : Nat), i.toNat ≤ j → j < x.length → (x.val.index j).val + (y.val.index j).val ≤ U32.max)
  (hi : i.val ≤ x.length) :
  ∃ x', add_no_overflow_loop x y i = ok x' ∧
  x'.length = x.length ∧
  toInt x' = toInt x + 2 ^ (32 * i.toNat) * toInt_aux (y.val.drop i.toNat) := by
  rw [add_no_overflow_loop]
  simp
  progress*?
```
Then `progress*` should generate the following script:
```lean
  split
  . progress as ⟨ yv ⟩
    progress as ⟨ xv ⟩
    progress as ⟨ sum ⟩
    . sorry
    progress as ⟨ i' ⟩
    progress as ⟨ x1 ⟩
    progress as ⟨ x2 ⟩
    . sorry
    sorry
  . simp_all
```
